US08530483B2
To a stirred solution of 1-(4-methoxy-benzyl)-1H-pyrrolo[2,3-b]pyridine-5-carboxylic acid (47 mg, 0.17 mmol) in CH2Cl2 (2 mL) was added 1-chloro-N,N-2-trimethylpropenylamine (45 μL, 0.34 mmol). Following formation of the resulting acid chloride, the reaction mixture was concentrated affording a residue that was dissolved in pyridine (2 mL) before 2,6-difluoro-pyridin-3-ylamine (20 mg, 0.15 mmol) was added in one portion. After an additional 30 minutes the reaction mixture was concentrated to dryness affording a residue, to which was added DMF (2 mL) and K2CO3 (64 mg, 0.46 mmol). The resulting mixture was heated by microwave to 150° C. for 10 min, after which the resulting mixture was filtered and concentrated, affording 5-fluoro-2-[1-(4-methoxy-benzyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-oxazolo[5,4-b]pyridine as a crude residue which was subsequently used without further purification. ES MS (M+H+)=375.

reactant | 1-(4-methoxy-benzyl)-1H-pyrrolo[2,3-b]pyridine-5-carboxylic acid | 0.17 mmol, 47 mg | COC1=CC=C(CN2C=CC=3C2=NC=C(C3)C(=O)O)C=C1 | C16H14N2O3
reactant | 2,6-difluoro-pyridin-3-ylamine | 0.15 mmol, 20 mg | FC1=NC(=CC=C1N)F | C5H4F2N2
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
reactant | K2CO3 | 0.46 mmol, 64 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | 5-fluoro-2-[1-(4-methoxy-benzyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-oxazolo[5,4-b]pyridine | FC1=CC=C2C(=N1)OC(=N2)C=2C=C1C(=NC2)N(C=C1)CC1=CC=C(C=C1)OC | C21H15FN4O2
